US05506235
To a suspension of 6-aminoindazole (40.0 g, 0.30 mol) in absolute ethanol (500 ml) was added ethyl acetoacetate (70.37 g, 54 mol), calcium sulfate (CaSO4) (20 g) and acetic acid (2 ml). The reaction mixture was heated to reflux and after 24 hours more calcium sulfate (10 g) and ethyl acetoacetate (19 ml) was added and the reflux continued for another 24 hour period. It was necessary to add more CaSO4 (5 g) and ethyl acetoacetate (10 ml) and to reflux the reaction mixture for an additional 24 hours to complete the conversion of 6-aminoindazole to product. The solid was removed by filtration and the filtrate subjected to rotary evaporation. Ethanol was added and the slurry cooled in a refrigerator. The solid was collected by filtration, washed with hexanes and dried in a vacuum oven to give the cyclization precursor ethyl 3-(indazol-6-ylamino)but-2-enoate as a light brown solid (62.19 g, 84%).

reactant | 6-aminoindazole | 0.30 mol, 40.0 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | ethyl acetoacetate | 54 mol, 70.37 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | calcium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | calcium sulfate | 10 g | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | ethyl acetoacetate | 19 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | calcium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | ethyl acetoacetate | 10 ml | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 3-(indazol-6-ylamino)but-2-enoate | 62.19 g, 84% | N1N=CC2=CC=C(C=C12)NC(=CC(=O)OCC)C | C13H15N3O2
